US08664220B2
Step 1: 1-{4′-[4-((S)-4-Benzyl-2-oxo-oxazolidin-3-ylmethyl)-3-methyl-isoxazol-5-yl]-biphenyl-4-yl}-cyclopropanecarboxylic acid ethyl ester
Prepared according to the procedure described in Example 5, Step 3, using 1-[4′-(4-bromomethyl-3-methyl-isoxazol-5-yl)-biphenyl-4-yl]-cyclopropanecarboxylic acid ethyl ester and (S)-4-benzyl-oxazolidin-2-one.

reactant | 1-[4′-(4-bromomethyl-3-methyl-isoxazol-5-yl)-biphenyl-4-yl]-cyclopropanecarboxylic acid ethyl ester | C(C)OC(=O)C1(CC1)C1=CC=C(C=C1)C1=CC=C(C=C1)C1=C(C(=NO1)C)CBr | C23H22BrNO3
reactant | (S)-4-benzyl-oxazolidin-2-one | C(C1=CC=CC=C1)[C@@H]1NC(OC1)=O | C10H11NO2
product | 1-{4′-[4-((S)-4-Benzyl-2-oxo-oxazolidin-3-ylmethyl)-3-methyl-isoxazol-5-yl]-biphenyl-4-yl}-cyclopropanecarboxylic acid ethyl ester | C(C)OC(=O)C1(CC1)C1=CC=C(C=C1)C1=CC=C(C=C1)C1=C(C(=NO1)C)CN1C(OC[C@@H]1CC1=CC=CC=C1)=O | C33H32N2O5
